US04340595
3.3 g (0.014 mole) of 6-(2,3-epoxypropoxy)-2,3,4,5-tetrahydro-1H-1-benzazepin-2-one are dissolved in 400 ml of n-propanol, 3 g of isopropylamine are added and the mixture is kept on a boiling waterbath for from 4 to 6 hours. The solvent and excess amine are then distilled off on a rotary evaporator and the residue is twice taken up in methanol, the solvent again being distilled off. The residue thus obtained is chromatographed on a silica gel column, using methanol as the mobile phase. 1.65 g (39.9% yield) of 6-(2-hydroxy-3-isopropylaminopropoxy)-2,3,4,5-tetrahydro-1H-1-benzazepin-2-one, of melting point 143°-145° C., are obtained.

reactant | 6-(2,3-epoxypropoxy)-2,3,4,5-tetrahydro-1H-1-benzazepin-2-one | 0.014 mole, 3.3 g | O1C(COC2=CC=CC3=C2CCCC(N3)=O)C1 | C13H15NO3
reactant | isopropylamine | 3 g | C(C)(C)N | C3H9N
solvent | n-propanol | 400 ml | C(CC)O | C3H8O
product | 6-(2-hydroxy-3-isopropylaminopropoxy)-2,3,4,5-tetrahydro-1H-1-benzazepin-2-one | 1.65 g, 39.9% yield | OC(COC1=CC=CC2=C1CCCC(N2)=O)CNC(C)C | C16H24N2O3
